series_parallel_R1R2R3R4 - fault test
Vin in 0 DC 10
C1 in a 3.74e-06
R2 a b 1994.959676
R3 a b 2942.459566
R4 b 0 1505.682578
.op
.control
run
print v(a) v(b) v(in)
print @r2[i] @r3[i] @r4[i]
.endc
.end
